US07932282B2
A stirred solution of 1,1-dimethylethyl 1-methyl-2-oxo-4-imidazolidinecarboxylate (0.501 g, 2.5 mmol) (prepared as described in step (i) of Example 49 from 5-(1,1-dimethylethyl)1-(phenylmethyl)3-methyl-2-oxo-1,5-imidazolidinedicarboxylate, itself prepared as described in step (ii) of Example 13, starting originally from (4S)-2-oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid) in N,N-dimethylformamide (10 ml) was cooled to −10° C. under argon and treated with iodoethane (0.404 ml, 5.00 mmol). Sodium hydride (60% dispersion in oil) (0.100 g, 2.500 mmol) was added portion wise. The mixture was allowed stirred warm to room temperature over 3 hours. The solvent was evaporated in vacuo and the residue was partitioned between ethyl acetate (20 ml) and brine (10 ml). The aqueous layer was re-extracted with ethyl acetate (20 ml) and the organic extracts were combined, washed with saturated sodium hydrogen carbonate solution (20 ml), water (2×20 ml) and brine (20 ml), dried and evaporated. The residue was purified by silica gel chromatography eluting with 25-100% ethyl acetate in isohexane to give 1,1-dimethylethyl 3-ethyl-1-methyl-2-oxo-4-imidazolidinecarboxylate (433 mg, 76%). LC/MS [M+H]+=229. (ii) A solution of 1,1-dimethylethyl 3-ethyl-1-methyl-2-oxo-4-imidazolidinecarboxylate (433 mg, 1.897 mmol) in TFA/DCM (1:2, 6 ml) was stirred at room temperature for 18 hours. The solution was evaporated and the residue was co-evaporated with dichloromethane and dried to give crude 3-ethyl-1-methyl-2-oxo-4-imidazolidinecarboxylic acid, (assume ˜1.9 mmol). LC/MS [M+H]+=173.

reactant | 1,1-dimethylethyl 1-methyl-2-oxo-4-imidazolidinecarboxylate | 2.5 mmol, 0.501 g | CN1C(NC(C1)C(=O)OC(C)(C)C)=O | C9H16N2O3
reactant | (4S)-2-oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid | O=C1NC[C@H](N1C(=O)OCC1=CC=CC=C1)C(=O)O | C12H12N2O5
reactant | iodoethane | 5.00 mmol, 0.404 ml | ICC | C2H5I
reactant | Sodium hydride | 2.500 mmol, 0.100 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1,1-dimethylethyl 3-ethyl-1-methyl-2-oxo-4-imidazolidinecarboxylate | 433 mg, 76% | C(C)N1C(N(CC1C(=O)OC(C)(C)C)C)=O | C11H20N2O3
